US08912329B2
1-(3-Phenylpyrrolidin-1-yl)pentan-1-one
A solution of 3-phenylpyrrolidine (294 mg, 2 mmol) in dry dichloromethane (6 mL) is cooled in an ice bath and pentanoyl chloride (301 mg, 2.5 mmol, 1.25 eq) and triethylamine (417 μL, 3 mmol, 1.5 eq) are added. After stirring for 6 hours at room temperature the reaction mixture is diluted with dichloromethane (10 mL). The organic solution is subsequently washed with 1 M KHSO4, 5% NaHCO3 and brine. After drying over Na2SO4, dichloromethane is removed in vacuo and the crude material is purified by flash chromatography (silicagel, ethyl acetate/toluene 1:4). The fractions containing 1-(3-phenylpyrrolidin-1-yl)pentan-1-one are collected and the solvent is removed in vacuo to give 378 mg of colorless oil.

reactant | 3-phenylpyrrolidine | 2 mmol, 294 mg | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | pentanoyl chloride | 2.5 mmol, 301 mg, 1.25 eq | C(CCCC)(=O)Cl | C5H9ClO
reactant | triethylamine | 3 mmol, 417 μL, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-Phenylpyrrolidin-1-yl)pentan-1-one | 378 mg | C1(=CC=CC=C1)C1CN(CC1)C(CCCC)=O | C15H21NO
